US07211672B2
(2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionamide (D-7)
(2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionamide was prepared from (2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionic acid. To a solution of 3-(4-{acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionic acid (21 mg, 0.042 mmol) in dimethylformamide (200 μl) was added HATU (24 mg, 0.063 mmol), HOBt (8.5 mg, 0.063 mmol), NH4Cl (4.5 mg, 0.084 mmol) and DIPEA (29 μl, 0.168 mmol). Upon consumption of the starting unit (2.5 hours), the mixture was diluted with EtOAc (10 ml) and washed with sat. NaHCO3 (4×10 ml). The EtOAc layer was collected, dried over Na2SO4, filtered, and concentrated to afford the title compound (17.2 mg, 82%).

reactant | (2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionic acid | C(C)(=O)N(C1=CC=C(C=C1)CCC(=O)O)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C29H30N2O5
reactant | 3-(4-{acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionic acid | 0.042 mmol, 21 mg | C(C)(=O)N(C1=CC=C(C=C1)CCC(=O)O)C1CC(N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C29H30N2O5
reactant | HATU | 0.063 mmol, 24 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | HOBt | 0.063 mmol, 8.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH4Cl | 0.084 mmol, 4.5 mg | [NH4+].[Cl-]
reactant | DIPEA | 0.168 mmol, 29 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 200 μl | CN(C=O)C | C3H7NO
product | (2S,4R)-3-(4-{Acetyl-[1-(4-methoxy-benzoyl)-2-methyl-1,2,3,4-tetrahydro-quinolin-4-yl]-amino}-phenyl)-propionamide | 17.2 mg, 82% | C(C)(=O)N(C1=CC=C(C=C1)CCC(=O)N)[C@@H]1C[C@@H](N(C2=CC=CC=C12)C(C1=CC=C(C=C1)OC)=O)C | C29H31N3O4
